US04117128
2-n-Butyl-3-(4-methoxyphenylsulfonyl)benzofuran was demethylated with pyridine hydrochloride at 185° according to the procedure described in Example 1 to give 2-n-butyl-3-(4-hydroxyphenylsulfonyl)benzofuran, m.p. 163°-165°.

reactant | 2-n-Butyl-3-(4-methoxyphenylsulfonyl)benzofuran | C(CCC)C=1OC2=C(C1S(=O)(=O)C1=CC=C(C=C1)OC)C=CC=C2 | C19H20O4S
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | 2-n-butyl-3-(4-hydroxyphenylsulfonyl)benzofuran | C(CCC)C=1OC2=C(C1S(=O)(=O)C1=CC=C(C=C1)O)C=CC=C2 | C18H18O4S
